US09302991B2
<Step-4>:(R)—N-(1-(5-cyclopropyl-6-(2,2-difluoroethoxy)pyridin-3-yl)ethyl)-2-meth ylpropane-2-sulfinamide (single diastereomer)
The title compound is prepared in 73% yield (0.21 g, colorless oil) from 1-(5-cyclopropyl-6-(2,2-difluoroethoxy)pyridin-3-yl)ethanone (0.20 g, 0.82 mmol, Step-3) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(5-cyclopropyl-6-(2,2-difluoroethoxy)pyridin-3-yl)ethanone | 0.82 mmol, 0.20 g | C1(CC1)C=1C=C(C=NC1OCC(F)F)C(C)=O | C12H13F2NO2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)—N-(1-(5-cyclopropyl-6-(2,2-difluoroethoxy)pyridin-3-yl)ethyl)-2-meth ylpropane-2-sulfinamide | 73% yield | C1(CC1)C=1C=C(C=NC1OCC(F)F)C(C)N[S@](=O)C(C)(C)C | C16H24F2N2O2S
